2129-04-28 06:31:00 Physician Resident Progress Note
Chief Complaint: ETOH withdrawal, radial head fracture L arm, pneumonia
   24 Hour Events:
   15mg total valium used
   RUQ u/s performed - fatty liver, no ascites, final read pending
   CT scan of arm performed- read pending
   Feels
shaky
 and as though he may be withdrawing.  +
soreness
   especially of his L elbow fracture.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2129-4-27**] 11:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2129-4-27**] 10:00 PM
   Diazepam (Valium) - [**2129-4-28**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, Dyspnea, Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea
   Psychiatric / Sleep: "shakiness" and diaphoresis
   Flowsheet Data as of  [**2129-4-28**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 81 (77 - 105) bpm
   BP: 136/81(94) {110/71(81) - 151/99(104)} mmHg
   RR: 13 (13 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    275 mL
                                                                    875 mL
   PO:
             TF:
   IVF:
                                                                    275 mL
                                                                    875 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -225 mL
                                                                    875 mL
   Respiratory support
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   bilateral diffuse exp wheezes, Rhonchorous: scattered ronchi)
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: hepatic
   tenderness, RUQ, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   101
   81
   0.5
   21
   5.2
   8
   107
   140
   40
   8
        [image002.jpg]
   AST 148 ALT 100  Lipase 68  Ca 7.7  Mg 2.0  Phos 2.5
   Other labs: PT / PTT / INR:13.3/27.1/1.1, Lactic Acid:1.6 mmol/L
   Imaging: Prelim RUQ u/s:
   1. Coarsened liver, with increased echogenicity consistent with fatty
   infiltration. Other forms of significant liver disease, including
   significant
   hepatic fibrosis/cirrhosis cannot be excluded.
   2. No ascites.
   3. Sludge ball or polyp within the gallbladder.
   Microbiology: Blood cultures pending
   H pylori pending
   Sputum culture: GS negative, 2+ polys, culture pending
   ECG: normal sinus rhythm, normal ECG
   Assessment and Plan
   48 yoM presents while intoxicated, s/p fall with radial head fracture
   also found to have pneumonia and an ETOH level of 388.
   #. ETOH abuse: beginning to withdraw, diaphoresis and feels "shaky."
   -patient admits to DTs in past as well as hallucinations, unclear if
   true DTs vs. alcoholic hallucinosis but will treat as if patient were
   high risk
   -no h/o ETOH w/d seizures
   -has used 15mg of prn diazepam (in 5mg dose and 10mg dose)
   -start standing diazepam 10mg po q4hrs in addition to prn q1hrs 10mg
   valium for CIWA > 10
   -f/u u tox
   -addiction consult
   -SW consult
   -thiamine / folate
   -fluid repletion with IVF (D5NS at 150cc/hr) x 2 liters then stop
   -patient states he is willing to quit drinking but his son states he
   has attempted many times in the past and failed.
   # Abdominal Pain: patient has enlarged liver on exam, alcoholic
   hepatitis, Bilirubin is only 1.0, PT normal.
   -trend elevated transaminases and lipase
   -RUQ u/s limited study but shows fatty liver w/o ascites, could not
   evaluate for cirrhoitic changes
   -IVF
   # Depression: assess depression in a.m. when sober.
   # melena: per report patient is having melena however hct is normal,
   may decrease with fluid as is dry.
   -trend hct
   -guiac stool
   -[**Hospital1 **] ppi
   -send h pylori to help w/ risk stratification
   -may need inpatient vs. outpatient EGD
   # Pneumonia: RML on CXR, + cough, borderline WBC count.
   -Community acquired pneumonia- levofloxacin, rec'd 1 dose of flagyl in
   ER, if spikes can add back flagyl
   -f/u blood cultures
   -sputum cx GS negative, f/u culture
   -wheezes diffusely on exam, start standing atrovent / albuterol nebs
   for now and change to prn as improves
   # Fracture: -L lateral epicondyle and radial head fracture
   -f/u final CT read, follow vascular exam distal to fracture.
   -currently neurvascularly intact and pain seems to be well controlled
   -percocet prn
   -f/u ortho recs.
   # Syncope: patient dry on exam, given intoxication may be related to
   orthostasis.
   -EKG normal, monitor on tele
   -fluid repletion
   # PPX: sc heparin for DVT ppx
   # GI/FEN:  may start on regular diet after fully awake this a.m.
   -Thiamine / folate / fluid repletion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-4-28**] 02:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2129-04-29 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   none
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2129-4-27**] 11:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-4-28**] 08:25 AM
   Heparin Sodium (Prophylaxis) - [**2129-4-28**] 10:09 PM
   Diazepam (Valium) - [**2129-4-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Chest pain
   Respiratory: Cough, Wheeze, cough improving
   Gastrointestinal: Abdominal pain
   Neurologic: No(t) Seizure
   Psychiatric / Sleep: "slightly shaky"
   Flowsheet Data as of  [**2129-4-29**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 69 (68 - 111) bpm
   BP: 150/90(105) {122/65(82) - 160/99(111)} mmHg
   RR: 13 (10 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,480 mL
                                                                    150 mL
   PO:
                                                                  1,520 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,960 mL
   Blood products:
   Total out:
                                                                  2,070 mL
                                                                  1,300 mL
   Urine:
                                                                  2,070 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,410 mL
                                                                 -1,150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   diffuse wheezes and scattered ronchi)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   77 K/uL
   14.1 g/dL
   90 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   8 mg/dL
   107 mEq/L
   140 mEq/L
   40.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2129-4-28**]  04:13 AM
                             [**2129-4-29**]  05:07 AM
   WBC
   8.0
   4.6
   Hct
   40.1
   40.9
   Plt
   101
   77
   Cr
   0.5
   0.5
   Glucose
   81
   90
   Other labs: PT / PTT / INR:13.1/28.1/1.1, ALT / AST:83/114, Alk Phos /
   T Bili:75/1.3, Amylase / Lipase:39/68, Lactic Acid:1.6 mmol/L, LDH:274
   IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   48 yoM presents while intoxicated, s/p fall with radial head fracture
   also found to have pneumonia and an ETOH level of 388.
   #. ETOH abuse: beginning to withdraw, diaphoresis and feels "shaky."
   -patient admits to DTs in past as well as hallucinations, unclear if
   true DTs vs. alcoholic hallucinosis but will treat as if patient were
   high risk
   -no h/o ETOH w/d seizures
   -has used 15mg of prn diazepam (in 5mg dose and 10mg dose)
   -start standing diazepam 10mg po q4hrs in addition to prn q1hrs 10mg
   valium for CIWA > 10
   -f/u u tox
   -addiction consult
   -SW consult
   -thiamine / folate
   -fluid repletion with IVF (D5NS at 150cc/hr) x 2 liters then stop
   -patient states he is willing to quit drinking but his son states he
   has attempted many times in the past and failed.
   # Abdominal Pain: patient has enlarged liver on exam, alcoholic
   hepatitis, Bilirubin is only 1.0, PT normal.
   -trend elevated transaminases and lipase
   -RUQ u/s limited study but shows fatty liver w/o ascites, could not
   evaluate for cirrhoitic changes
   -IVF
   # Depression: assess depression in a.m. when sober.
   # melena: per report patient is having melena however hct is normal,
   may decrease with fluid as is dry.
   -trend hct
   -guiac stool
   -[**Hospital1 **] ppi
   -send h pylori to help w/ risk stratification
   -may need inpatient vs. outpatient EGD
   # Pneumonia: RML on CXR, + cough, borderline WBC count.
   -Community acquired pneumonia- levofloxacin, rec'd 1 dose of flagyl in
   ER, if spikes can add back flagyl
   -f/u blood cultures
   -sputum cx GS negative, f/u culture
   -wheezes diffusely on exam, start standing atrovent / albuterol nebs
   for now and change to prn as improves
   # Fracture: -L lateral epicondyle and radial head fracture
   -f/u final CT read, follow vascular exam distal to fracture.
   -currently neurvascularly intact and pain seems to be well controlled
   -percocet prn
   -f/u ortho recs.
   # Syncope: patient dry on exam, given intoxication may be related to
   orthostasis.
   -EKG normal, monitor on tele
   -fluid repletion
   # PPX: sc heparin for DVT ppx
   # GI/FEN:  may start on regular diet after fully awake this a.m.
   -Thiamine / folate / fluid repletion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-4-28**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-04-29 11:21:00 Physician Attending Progress Note
Chief Complaint: EtOH Withdrawal/ Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still coughing. Feeling "shaky"
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2129-4-27**] 11:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-4-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-4-29**] 08:00 AM
   Diazepam (Valium) - [**2129-4-29**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-4-29**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 80 (62 - 97) bpm
   BP: 152/92(106) {122/65(82) - 158/106(119)} mmHg
   RR: 12 (10 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,480 mL
                                                                    390 mL
   PO:
                                                                  1,520 mL
                                                                    390 mL
   TF:
   IVF:
                                                                  1,960 mL
   Blood products:
   Total out:
                                                                  2,070 mL
                                                                  2,060 mL
   Urine:
                                                                  2,070 mL
                                                                  2,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,410 mL
                                                                 -1,670 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : few basilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, Fx L elbow
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   14.1 g/dL
   77 K/uL
   90 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   8 mg/dL
   107 mEq/L
   140 mEq/L
   40.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2129-4-28**]  04:13 AM
                             [**2129-4-29**]  05:07 AM
   WBC
   8.0
   4.6
   Hct
   40.1
   40.9
   Plt
   101
   77
   Cr
   0.5
   0.5
   Glucose
   81
   90
   Other labs: PT / PTT / INR:13.1/28.1/1.1, ALT / AST:83/114, Alk Phos /
   T Bili:75/1.3, Amylase / Lipase:39/68, Lactic Acid:1.6 mmol/L, LDH:274
   IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   EtOH Withdrawal
   Pneumonia
   L elbow fx
   anemia
   Alert, comfortable. No objective findings of withdrawal.  Will allow
   Valium to taper unless he has objective signs per CIWA.  Awaiting Ortho
   recs per his elbow.  Would recheck CXR to have better sense of whether
   he has pneumonia.
   ICU Care
   Nutrition:
   Comments: Eating
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2129-4-28**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes